US03956260
48. Z-Gly-Phe-Gly-Pro-OH
25.6 g of Z-Gly-Phe-Gly-Pro-OtBu are dissolved in 260 ml of 90 % strength trifluoracetic acid and the solution is allowed to stand for 20 minutes at 22°C. Thereafter it is concentrated in a rotational evaporator at 25°C bath temperature until it has an oily consistency; 250 ml of water are then added and the viscous mass is thoroughly kneaded at 0°C. The aqueous phase is decanted off, and the residue is washed twice more in the same manner with 100 ml of water at a time. The residue is then dried in a high vacuum at 30°C bath temperature. The residue hereupon obtained is mixed with 600 ml of ether-petroleum ether (1:1), triturated, filtered off and dried. The product is directly processed further.

reactant | Z-Gly-Phe-Gly-Pro-OtBu | 25.6 g | N(CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C30H38N4O7
solvent | trifluoracetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | Z-Gly-Phe-Gly-Pro-OH | N(CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N1[C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C26H30N4O7
